US04665195
To a 300 ml stainless steel, stirred autoclave there was added 21 g of tertiarybutylamine, 20 g of tertiarybutylaminoethoxyethoxyethanol, 0.6 g of Ni-Al2O3 -SiO2 catalyst (Harshaw NI-5132P), and 50 ml of toluene. The autoclave containing the reactants was heated to 200° C. under autogenous pressure (180 psi) for 6 hours. The contents were cooled, removed and filtered. The autoclave and filtercake were washed with additional toluene. G.C. analysis revealed that the product was comprised of about 91 wt. % 1,2-bis-(tertiarybutylaminoethoxy) ethane and less than about 5 wt. % tertiarybutylaminoethoxyethoxyethanol. Vacuum distillation gave 17.3 g of 1,2-bis-(tertiarybutylaminoethoxy) ethane, having a boiling point of 125°-128° C./3 mm.

reactant | tertiarybutylamine | 21 g | C(C)(C)(C)N | C4H11N
reactant | tertiarybutylaminoethoxyethoxyethanol | 20 g | C(C)(C)(C)NCCOCCOC(C)O | C10H23NO3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-bis-(tertiarybutylaminoethoxy) ethane | 17.3 g | C(C)(C)(C)NCCOCCOCCNC(C)(C)C | C14H32N2O2
